US05955476
In a similar fashion, lithium bis(trimethylsilyl)amide (24 mL, 24 mmol, 1.0 M) is added to a stirred solution of 1,3-dioxo-2-(1-tert-butoxycarbonyl-2,6-dioxopiperidin-3-yl)isoindoline(7.16 g, 20 mmol) in tetrahydrofuran (250 mL) at -40° C. After 1 hour, N-fluorobenzenesulfonimide (7.6 g, 24 mmol) is added to the mixture. The mixture is allowed to reach room temperature and kept overnight. The solution is stirred with ethyl acetate (200 mL), aqueous ammonium chloride (100 ml, sat), and water (100 mL). The aqueous layer is separated and extracted with ethyl acetate (200 mL). The combined organic layers are washed with water (100 mL), brine (100 mL), and dried over sodium sulfate. The solvent is removed in vacuo. The residue is purified by chromatography (silica gel) to give the intermediate 1,3-dioxo-2-(1-tert-butoxycarbonyl-2,6-dioxo-3-fluoropiperidin-3-yl)isoindoline.

reactant | lithium bis(trimethylsilyl)amide | 24 mmol, 1.0 M, 24 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1,3-dioxo-2-(1-tert-butoxycarbonyl-2,6-dioxopiperidin-3-yl)isoindoline | 20 mmol, 7.16 g | O=C1N(C(C2=CC=CC=C12)=O)C1C(N(C(CC1)=O)C(=O)OC(C)(C)C)=O | C18H18N2O6
reactant | N-fluorobenzenesulfonimide | 24 mmol, 7.6 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1,3-dioxo-2-(1-tert-butoxycarbonyl-2,6-dioxo-3-fluoropiperidin-3-yl)isoindoline | O=C1N(C(C2=CC=CC=C12)=O)C1(C(N(C(CC1)=O)C(=O)OC(C)(C)C)=O)F | C18H17FN2O6
